Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine
 
Attending: ___.
 
Chief Complaint:
odynophagia
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
The patient is a ___ year old female with multiple medical 
problems including distant gastric bypass with multiple 
complications and subsequent surgeries, chronic abdominal pain, 
substance abuse, and pulmonary embolism currently on lovenox who 
presents with 3 days of odynophagia and burning chest pain. She 
has chronic epigastric abdominal discomfort and nausea related 
to multiple surgeries. She was in her normal state of health 
until three days ago when she developed substernal burning chest 
discommfort and odynophagia. She states that these symkptoms are 
identical to a prior episode of ___ esophagitis in ___. She describes the pain as sharp and burning with 
swallowing - worse with solids than liquids. She can swallow 
pills. There is no radiation, no change with position, no 
shortness of breath. She also endorses low grade fever to 100.2 
at home several days ago, as well as multiple episodes of 
diarrhea on ___ and ___ which have since resolved. No 
melana, BRBPR. She reports her weight has been stable at 138 
pounds. 
 
The patient was admitted in ___ for odynophagia. She had 
an EGD on ___ that demonstrating esophageal candidiasis 
and longitudinal ulcerations at the gastroesophageal junction 
and the cardia. She was treated with a 3 week course of 
fluconazole. She was also given carafate QID, PPI, BID, and 
cholestyramine. An HIV test and H. pylori was negative. A 
dobhoff tube was placed during this admission and tube feeds 
were started for malnutrition.  She was in rehab from ___ until 
___. Per Dr. ___ G tube was attempted in ___ at 
___ but she developed a hematoma so it was removed. 

In the ED, initial vs were: T98.6 87 134/78 16 96%RA.
On exam patient was uncomfortable, complaining of ___ 
mid-sternal CP which she describes as "esophagus" pain. Exam is 
notable for dry mucus membranes, no appreciable oral lesions or 
evidence for candidiasis. 
[ ] CBC with diff, lytes: no leukocytosis 
[x] troponin: negative
[x] IVF bolus, 1L NS
[x] EKG: consistent with prior
[ ] CXR
[x] Nausea: IV zofran
[x] pain control: IV dilaudid PRN, pt is on chronic methadone
[x] GI: touched base with her GI Dr. ___ recs as he has 
not seen her as a pt before --> GI consult, per GI admit to 
medicine and they will see her as an inpatient 
 
Review of sytems:  
(+) Per HPI  
(-) Ten point review of systems is otherwise negative.  
 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY at 
___  and complete reversal
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
now on suboxone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.  
-DJD  
-2 SBOs  
-Menopause completed  

Past Surgical History:  
-___- gastric bypass & CCY  and subsequent complete 
reversal
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs, 
attempted reverse of the gastric bypass, the most recent in ___ 
 

 
Social History:
___
Family History:
-Mother with diabetes
 
Physical Exam:
General: appears older than stated age, comfortable 
HEENT:  anicteric sclera, oropharynx clear
Lungs:  CTA bilaterally, unlabored
CV:  S1, S2 regular rhythm, normal rate
Abdomen:  healed surgical scars, soft, non-tender, non-distended
Ext:  warm, distal pulses intact
Skin:  no obvious rash
Neuro:  alert, speech fluent, tongue midline
 
 
Pertinent Results:
___ 10:00AM BLOOD WBC-4.2 RBC-4.10*# Hgb-12.2# Hct-39.2# 
MCV-96 MCH-29.8 MCHC-31.2 RDW-14.0 Plt ___
___ 06:35AM BLOOD Plt ___
___ 10:00AM BLOOD Plt ___
___ 10:00AM BLOOD Glucose-97 UreaN-9 Creat-0.8 Na-141 K-3.5 
Cl-97 HCO3-32 AnGap-16
___ 06:35AM BLOOD Glucose-81 UreaN-8 Creat-0.7 Na-142 K-3.5 
Cl-105 HCO3-32 AnGap-9
___ 07:30AM BLOOD Glucose-72 UreaN-8 Creat-0.8 Na-139 K-3.5 
Cl-101 HCO3-32 AnGap-10
___ 10:00AM BLOOD ALT-10 AST-19 LD(LDH)-219 AlkPhos-112* 
TotBili-0.2
___ 10:00AM BLOOD Lipase-10
___ 10:00AM BLOOD cTropnT-<0.01
___ 06:35AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:30AM BLOOD Calcium-8.7 Phos-3.8 Mg-1.8
___ 07:30AM BLOOD HIV Ab-NEGATIVE
___ 06:35AM BLOOD COPPER (SERUM)-117
.
CXR: 
FINDINGS:  AP upright and lateral views of the chest were 
provided.  Lungs
appear clear bilaterally without focal consolidation, effusion 
or
pneumothorax.  There is no free air below the right 
hemidiaphragm.  The
cardiomediastinal silhouette is normal.  The bony structures are 
intact.
IMPRESSION:  No acute findings.
.
SMALL BOWEL FOLLOW THROUGH
FINDINGS:
 
Upon review of prior CT abdomen/pelvis, it was determined that 
the patient is
status post gastric bypass with complete reversal of the bypass. 
 The stomach
appears slightly deformed with thickened and edematous gastric 
folds, likely
secondary to surgical changes.  Thin barium passes appropriately 
through the
distal antrum into the duodenum, and then into the jejunum.  
There is no
contrast filling of the Roux limb, which presumably was closed 
or excised. 
There is no extravasation of contrast to suggest fistula or 
leak.  Small-bowel
follow-through was limited due to patient fatigue and inability 
to tolerate
swallowing much barium.  Considerable portions of the distal 
small bowel are
only minimally opacified and contrast opacification was not 
pursued to the
terminal ileum.  There is dilation of small bowel loops at the 
JJ anastomosis.
Mild reflux of contrast past the GE junction into the distal ___ 
of the
esophagus is noted.  
 
IMPRESSION:
1.  Status post gastric bypass, with complete reversal.  
Contrast passes from
the stomach into the duodenum and then jejunum as intended, 
without
extravasation of contrast to suggest fistula or leak.  
2.  Thickened and edematous gastric folds, likely secondary to 
prior
surgeries. 
3.  Mild reflux at the GE junction into the distal ___ of the 
esophagus. 
.
.
EGD: 
Findings:
Esophagus:
Mucosa:Erosive esophagitis with ulcerations and contact 
bleeding was seen extending up to 28cm. Cold forceps biopsies 
were performed for histology at the esophagus; biopsies were 
also sent for viral culture. 
Stomach:
OtherAn end-end gastrojejunal anastomosis was seen, with a 
small remnant gastric pouch. There was also a suture with 
granulomatous tissue around it in the proximal gastric pouch. 
Bile was seen in the remnant gastric pouch as well. 
Jejunum:Normal jejunum.
Impression:Esophagitis (biopsy)
An end-end gastrojejunal anastomosis was seen, with a small 
remnant gastric pouch. There was also a suture with 
granulomatous tissue around it in the proximal gastric pouch. 
Bile was seen in the remnant gastric pouch as well.
Otherwise normal EGD to jejunum
Recommendations:F/u biopsies
Further management per inpatient team
.
GI BIOPSY: 
PATHOLOGIC DIAGNOSIS:
Esophageal mucosal biopsy:
 - Squamous mucosa, with rare eosinophils, spongiosis and 
increased
basal zone regeneration, consistent with mildly active 
esophagitis.
.
GI BIOPSY: 
ime Taken Not Noted     Log-In Date/Time: ___ 2:07 pm
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS     Site: ESOPHAGUS
      TEST VERIFIED BY ___ ___. 

   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary): 
      No Cytomegalovirus (CMV) isolated. 

   CYTOMEGALOVIRUS EARLY ANTIGEN TEST (SHELL VIAL METHOD) (Final 
___: 
      Negative for Cytomegalovirus early antigen by 
immunofluorescence. 
      Refer to culture results for further information. 

   VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Preliminary): 
      No Herpes simplex (HSV) virus isolated. 

 
Brief Hospital Course:
ASSESSMENT AND PLAN: 
___ year old female with multiple medical problems including 
distant gastric bypass with multiple complications and 
subsequent surgeries, chronic abdominal pain on methadone, and 
pulmonary embolism now on lovenox who presents with 3 days of 
odynophagia and burning chest pain.
.
#ODYNOPHAGIA / ESOPHAGITIS: Her presentation was most consistent 
with esophagitis due to GERD.  She underwent EGD that confirmed 
esophagitis (grossly and on biopsy).  VIral culture was 
negative.  She has a history of ___ esophagitis (___) but 
biopsy did not demonstrate fungus.  HIV test was negative. She 
was started on PPI BID and sucrulfate (slurry) 1gram QID.  She 
was given viscous lidocaine to take prior to meals and was able 
to tolerate a regular diet.  EGD noted bile in the stomach so 
she was started on cholestyramine.  Small bowel follow through 
did not demonstrate  fistula between remnant and gastric pouch 
causing non acid bile reflux.  She will continue PPI BID, 
sucrulfate, and cholestyramine until she follows up with GI in 
___ weeks (scheduled). She was given a prescription for GI 
cocktail with lidocaine that she can take for one week.  She was 
given a small number of PO dilaudid for pain control.   

CHRONIC:  

#History of Copper deficiency: Followed by neurology and felt 
that long standing weakness may be ___ copper deficiency so she 
was started on supplemental copper.  A copper level was checked 
and was within normal limits.  She was continued on copper 
gluconate 2mg daily
  
#Hx of DVT: She was continued on lovenox 1mg BID for history of 
venous thromboembolism. 
 
#Chronic Pain: She was continued on her home of methadone 

#Depression/anxiety: She was continued on home Doxepin, 
clonazepam, Quetapin, and Mirtazapin 
  
# CODE: DNR per patient 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. BuPROPion (Sustained Release) 150 mg PO QAM 
2. ClonazePAM 1 mg PO TID 
3. copper gluconate 2 mg oral daily 
4. Doxepin HCl 75 mg PO HS 
5. Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
6. Furosemide 40 mg PO BID 
7. Methadone 10 mg PO Q6H 
8. Mirtazapine 22.5 mg PO HS 
9. Omeprazole 20 mg PO BID 
10. QUEtiapine Fumarate 100 mg PO QAM 
11. QUEtiapine Fumarate 300 mg PO QHS 
12. Sucralfate 1 gm PO QID 
13. Vitamin D 1000 UNIT PO DAILY 
14. Cyanocobalamin Dose is Unknown  PO DAILY 
15. Magnesium Oxide Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO QAM 
2. ClonazePAM 1 mg PO TID 
3. copper gluconate 2 mg oral daily 
4. Doxepin HCl 75 mg PO HS 
5. Methadone 10 mg PO Q6H 
6. Mirtazapine 22.5 mg PO HS 
7. QUEtiapine Fumarate 100 mg PO QAM 
8. QUEtiapine Fumarate 300 mg PO QHS 
9. Sucralfate 1 gm PO QID 
10. Cholestyramine 4 gm PO TID 
RX *cholestyramine (with sugar) 4 gram 1 packet by mouth three 
times a day Disp #*90 Not Specified Refills:*0
11. Lidocaine Viscous 2% 15 mL PO TID 
RX ___ [FIRST-Mouthwash BLM] 400 
mg-400 mg-40 mg-25 mg-200 mg/30 mL ___ teaspoons three times a 
day Disp #*450 Milliliter Refills:*0
12. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule,delayed ___ by 
mouth twice a day Disp #*60 Capsule Refills:*0
13. Furosemide 40 mg PO DAILY 
14. Vitamin D 1000 UNIT PO DAILY 
15. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
16. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth Q6 Disp 
#*35 Tablet Refills:*0
17. Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Esophagitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to participate in your care. You were admitted 
with pain when swallowing. You had an upper endoscopy that 
showed inflammation in your esophagus (esophagitis). A biopsy 
was taken - it did NOT show an infection. You were treated with 
medicine to reduce stomach acid (omeprazole, sucrulfate).  There 
may still be some discomfort with swallowing. For the next week, 
you should take the GI-cocktail (lidocaine) prior to meals to 
reduce the pain. You were given a prescription for pain 
medication (dilaudid) as well. This medication can cause 
constipation - if you do not have a bowel movement every day 
then you should take a stool softner such as colase or senna. 
You were scheduled to follow up with the GI doctors in two 
___. 
 
Followup Instructions:
___